US07507740B2
(ii) Production of 4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]butyl acetate
To a solution of 4-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)butyl acetate (302 mg) in isopropyl alcohol (2.24 mL) was added 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline (421 mg), and the mixture was stirred in an oil bath at a temperature of 100° C. for 3.5 hrs. The reaction mixture was allowed to cool to room temperature, 5% aqueous sodium hydrogen carbonate solution (35 mL) was added, and the mixture was extracted with ethyl acetate (50 mL×3). The organic layer washed successively with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to basic silica gel chromatography (eluent:hexane/ethyl acetate=95/5→20/80). The object fraction was concentrated under reduced pressure and dried to give the title compound (293 mg) as a white powder.

reactant | 4-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)butyl acetate | 302 mg | C(C)(=O)OCCCCN1C=CC=2N=CN=C(C21)Cl | C12H14ClN3O2
reactant | 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline | 421 mg | ClC=1C=C(N)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C13H9ClF3NO
reactant | sodium hydrogen carbonate | 35 mL | C(O)([O-])=O.[Na+]
solvent | isopropyl alcohol | 2.24 mL | C(C)(C)O | C3H8O
product | 4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]butyl acetate | 293 mg | C(C)(=O)OCCCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)Cl | C25H22ClF3N4O3
